US07531553B2
Step D: 4-{2-[4-Chloro-3-(piperidin-4-ylmethoxy)-phenylamino]-benzoxazol-5-yloxy}-pyridine-2-carboxylic acid methylamide
4-{2-Chloro-5-[5-(2-methylcarbamoyl-pyridin-4-yloxy)-benzoxazol-2-ylamino]-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester was dissolved in TFA (2 mL). After stirring for 2 h at RT, the mixture was concentrated in vacuo and taken up into EtOAc and washed with NaOH, then NaHCO3 (sat). The organic layer was dried with Na2SO4, filtered and evaporated. The title compound was obtained after purification by prepatory HPLC as a white solid. MS(MH+)=508.1; Calc'd 507.17 for C26H26ClN5O4.

reactant | 4-{2-Chloro-5-[5-(2-methylcarbamoyl-pyridin-4-yloxy)-benzoxazol-2-ylamino]-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC(=C1)NC=1OC2=C(N1)C=C(C=C2)OC2=CC(=NC=C2)C(NC)=O)Cl | C31H34ClN5O6
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-{2-[4-Chloro-3-(piperidin-4-ylmethoxy)-phenylamino]-benzoxazol-5-yloxy}-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC=1C=CC2=C(N=C(O2)NC2=CC(=C(C=C2)Cl)OCC2CCNCC2)C1 | C26H26ClN5O4
